US06548506B2
A mixture of 2.5 g of 1-iodo-3-(methylsulphanylmethyl)benzene, 1.3 g of sodium tert-butoxide, 0.35 mg of [1,1′-bis(diphenylphosphino)ferrocenyl]palladium chloride, 0.79 g of 1,1′-bis(diphenylphosphino)ferrocene, 4 g of piperazine and 100 cm3 of toluene was heated at 900° C. under a nitrogen stream for 24 hours. The reaction mixture was cooled to room temperature and filtered through sintered glass. The filtrate was washed with 250 cm3 of dichloromethane and then concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained was purified by silica gel column chromatography (particle size 0.04-0.06 mm, diameter 4 cm, height 20 cm) under a pressure of 0.5 bar of nitrogen with a mixture of dichloromethane and methanol (90/10 by volume) and then a mixture of dichloromethane and methanol (85/15 by volume) as eluents, 100-cm3 fractions were collected. Fractions 29 to 36 were combined and concentrated to dryness under reduced pressure (2.7 kPa). The oil obtained was distilled in a bulb oven (B.p.=160° C. approximately under a pressure of 0.1 mm of mercury). 0.67 g of 4-[3-(methylsulphanylmethyl)phenyl]piperazine was obtained in the form of a colorless oil.

reactant | 1-iodo-3-(methylsulphanylmethyl)benzene | 2.5 g | IC1=CC(=CC=C1)CSC | C8H9IS
reactant | sodium tert-butoxide | 1.3 g | CC(C)([O-])C.[Na+]
reactant | piperazine | 4 g | N1CCNCC1 | C4H10N2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.79 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | toluene | 100 cm3 | C1(=CC=CC=C1)C | C7H8
product | 4-[3-(methylsulphanylmethyl)phenyl]piperazine | 0.67 g | CSCC=1C=C(C=CC1)N1CCNCC1 | C12H18N2S
